US09399640B2
Step 3. 4-[3,4-Diamino-2-(2,4-difluorophenoxy)phenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
A solution of 4-[4-amino-2-(2,4-difluorophenoxy)-3-nitrophenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one (108 mg, 0.191 mmol) in ethyl acetate (0.46 mL) was treated with methanol (0.46 mL) and saturated aqueous ammonium chloride solution (0.166 mL, 2.48 mmol) and cooled to 0° C. The reaction mixture was treated with zinc (99.7 mg, 1.52 mmol) and stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, filtered through a pad of Celite, and the solids were washed with ethyl acetate. The filtrate was washed with saturated sodium bicarbonate solution (40 mL). The aqueous layer was separated and re-extracted with ethyl acetate (40 mL). The combined organic layers were washed with brine, dried with sodium sulfate, filtered, and concentrated to give a crude residue. Purification by flash column chromatography (40% EtOAc/hexanes to 100% EtOAc) gave the desired product (100 mg, 93%) as a brown oil. LCMS calculated for C27H23F2N4O4S (M+H)+: m/z=537.1. found: 537.1.

reactant | 4-[4-amino-2-(2,4-difluorophenoxy)-3-nitrophenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 0.191 mmol, 108 mg | NC1=C(C(=C(C=C1)C=1C2=C(C(N(C1)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)OC2=C(C=C(C=C2)F)F)[N+](=O)[O-] | C27H20F2N4O6S
reactant | methanol | 0.46 mL | CO | CH4O
reactant | ammonium chloride | 2.48 mmol, 0.166 mL | [Cl-].[NH4+]
solvent | ethyl acetate | 0.46 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 1.52 mmol, 99.7 mg | [Zn] | Zn
product | 4-[3,4-Diamino-2-(2,4-difluorophenoxy)phenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 100 mg, 93% | NC=1C(=C(C=CC1N)C=1C2=C(C(N(C1)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)OC2=C(C=C(C=C2)F)F | C27H22F2N4O4S
